US07384949B2
2-Chloro-4-(2-furyl)thieno[3,2-d]pyrimidine (Example 3)
A solution of 2,4-dichlorothieno[3,2-d]pyrimidine (205 mg, 1 mmol) in DMF (4 mL) was treated with PdCl2(PPh3)2 (35 mg, 0.05 mmol) and 2-(tributylstannyl)-furan (315 μL, 1 mmol), stirred at room temperature for 16 h, the reaction mixture purified directly by chromatography (SiO2:EtOAc:Heptane, 1:9) and the resulting cream solid recrystallised (EtOAc/Heptane) to give the title compound (122 mg, 52%) as a cream solid.

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 1 mmol, 205 mg | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 2-(tributylstannyl)-furan | 1 mmol, 315 μL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(2-furyl)thieno[3,2-d]pyrimidine | 122 mg, 52% | ClC=1N=C(C2=C(N1)C=CS2)C=2OC=CC2 | C10H5ClN2OS
